US03947466
In the manner given in Example 12, 2',6'-difluoro-5-chloro-2-[3,5-bis(hydroxymethyl)-4H-1,2,4-triazol-4-yl]benzophenone, phthalimide, and triphenylphosphine in tetrahydrofuran is reacted with diethyl azodicarboxylate to give 2',6'-difluoro-5-chloro-2-[3,5-bis(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 2',6'-difluoro-5-chloro-2-[3,5-bis(hydroxymethyl)-4H-1,2,4-triazol-4-yl]benzophenone | FC1=C(C(=CC=C1)F)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1CO)CO)=O | C17H12ClF2N3O3
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2',6'-difluoro-5-chloro-2-[3,5-bis(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone | FC1=C(C(=CC=C1)F)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)CN2C(C=1C(C2=O)=CC=CC1)=O)=O | C33H18ClF2N5O5
